US06809110B2
In analogy to the procedure described in example 10 d], 3-(4-{cyclopentyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester (mixture of two diastereomeric racemates) was treated with LiOH to obtain 3-(4-{cyclopentyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid as a mixture of two diastereomeric racemates as colorless liquid.

reactant | 3-(4-{cyclopentyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OC(C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1CCCC1)C)OCC)=O | C31H36F3NO4S
reactant | LiOH | [Li+].[OH-]
product | 3-(4-{cyclopentyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid | C1(CCCC1)C(OC1=CC(=C(C=C1)CC(C(=O)O)OCC)C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C29H32F3NO4S
